data/core_train_final.csv
"[I:20][I:21].[Ar]>>[Ar].[I:20].[I:21] 20,21-20;20,21-21",Heat,Initiation,homolyze
"[H:20][Br:21].CC([CH:10]C1=CC=CC=C1)Br>>[H:20][CH:10](C1=CC=CC=C1)C(C)Br.[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH2:20]=[CH2:21].[Cl:10]>>[CH2:21][CH2:20][Cl:10] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"C1CCC2CCCCC2C1.[Br:20][Br:21].[Ar]>>[Ar].C1CCC2CCCCC2C1.[Br:20].[Br:21] 20,21-20;20,21-21",Heat,Initiation,homolyze
"[H:20][CH:21]1CCC1.[Cl:10]>>[H:20][Cl:10].C1C[CH:21]C1 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC1=CC=C(C=C1)[N+](=O)[O-].[Br:20][Br:21].[He]>>[He].CC1=CC=C(C=C1)[N+](=O)[O-].[Br:20].[Br:21] 20,21-20;20,21-21",Light,Initiation,homolyze
"C[CH2:10].[Cl:20][Cl:21]>>C[CH2:10][Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC[C:10](CC)CC.[Br:20][Br:21]>>CCC[C:10](CC)(CC)[Br:20].[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:4][C:3]([H:7])([CH2:2][CH3:1])[CH2:5][CH3:6].[Cl:8]>>[H:4][C:3]([CH2:2][CH3:1])[CH2:5][CH3:6].[H:7][Cl:8] 8-8,7;3,7-8,7;3,7-3",Room Temperature,Propagation,abstraction
"[CH3:1][C:2]1[CH2:3][CH2:4][CH2:5][CH2:6][CH2:7]1.[Br:8][Br:9]>>[CH3:1][C:2]1([CH2:3][CH2:4][CH2:5][CH2:6][CH2:7]1)[Br:8].[Br:9] 9,8-2,8;9,8-9;2-2,8",Room Temperature,Propagation,abstraction
"[H:1][C:2]1[CH:7]=[CH:6][CH:5]=[CH:4][C:3]1=[C:8]([C:9]2=[CH:10][CH:11]=[CH:12][CH:13]=[CH:14]2)[C:15]3=[CH:16][CH:17]=[CH:18][CH:19]=[CH:20]3>>[H:1][C:2]1=[C:3]([CH:4]=[CH:5][CH:6]=[CH:7]1)[C:8]([C:9]2=[CH:10][CH:11]=[CH:12][CH:13]=[CH:14]2)[C:15]3=[CH:16][CH:17]=[CH:18][CH:19]=[CH:20]3 2-2,3; 3,8-2,3; 3,8-8",Room Temperature,Propagation,resonance
"C[C:10](CCC1=CC=CC=C1)C2=CC=CC=C2.[CH2:20]=[CH:21]C1=CC=CC=C1>>C[C:10](CCC1=CC=CC=C1)([CH2:20][CH:21]C2=CC=CC=C2)C3=CC=CC=C3 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:1][C:2]([H:3])([H:5])[Cl:4].[H:6][O:7]>>[H:1][C:2]([H:3])[Cl:4].[H:6][O:7][H:5] 7-7,5; 2,5-7,5; 2,5-2",Room Temperature,Propagation,abstraction
"[H:10][CH2:9][N:2]([CH3:1])[CH2:3][CH2:4][N+:5]([H:6])([CH3:7])[CH3:8].[O-:14][S:12](=[O:13])(=[O:15])[O:11]>>[H:6][N+:5]([CH3:7])([CH3:8])[CH2:4][CH2:3][N:2]([CH3:1])[CH2:9].[H:10][O:11][S:12](=[O:15])(=[O:13])[O-:14] 11-11,10;9,10-10,11;10,9-9",Room Temperature,Propagation,abstraction
"[H:1][C:2]([H:3])([H:7])[O:4][O:5][H:6].[He]>>[He].[H:1][C:2]([H:3])([H:7])[O:4].[H:6][O:5] 4,5-5; 4,5-4",Light,Initiation,homolyze
"C1CCC(CC1)[C:20](=[O:21])[O:10][Br:11].[Ar]>>[Ar].C1CCC(CC1)[C:20](=[O:10])[O:21].[Br:11] 10,11-10,20;10,11-11;20,21-10,20;20,21-21",Heat,Initiation,homolyze
"CC(C)(C)[CH2:10].[Br:20][Br:21]>>CC(C)(C)[CH2:10][Br:20].[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:11][O:10][C:9]1=[CH:12][C:5]([CH:6]=[CH:7][C:8]1=[O:13])[CH:4]=[CH:3][C:2](=[O:14])[O-:1]>>[CH3:11][O:10][C:9]1[CH:12]=[C:5]([CH:6]=[CH:7][C:8]1=[O:13])[CH:4]=[CH:3][C:2](=[O:14])[O-:1] 5-5,12; 9,12-5,12; 9,12-9",Room Temperature,Propagation,resonance
"[Cl:20][Cl:21].[He]>>[He].[Cl:20].[Cl:21] 20,21-20;20,21-21",Light,Initiation,homolyze
"CC1=C(C=CC=C1)Br.[Br:20][Br:21].[He]>>[He].CC1=C(C=CC=C1)Br.[Br:20].[Br:21] 20,21-20;20,21-21",Light,Initiation,homolyze
"[CH3:14][CH2:13][O:12][C:11](=[O:15])[CH:10]([CH3:16])[CH2:9][C:8](=[CH:7][C:6])[CH3:17].[CH3:5][C:2](=[CH2:1])[CH:3]=[CH2:4]>>[CH3:14][CH2:13][O:12][C:11](=[O:15])[CH:10]([CH3:16])[CH2:9][C:8](=[CH:7][CH2:6][CH2:1][C:2](=[CH:3][C:4])[CH3:5])[CH3:17] 3,4-4; 3,4-2,3; 1,2-2,3; 1,2-1,6; 6-1,6",Room Temperature,Propagation,addition
"[I:20][I:21].[He]>>[He].[I:20].[I:21] 20,21-20;20,21-21",Light,Initiation,homolyze
"[H:8][C:7]1[CH:6]=[CH:5][CH:4]=[C:3]2[C:9]1=[C:10]([C:12]3=[C:13]([C:2]2=[O:1])[CH:14]=[CH:15][CH:16]=[CH:17]3)[H:11]>>[H:8][C:7]1=[C:9]2[C:10]([C:12]3=[C:13]([CH:14]=[CH:15][CH:16]=[CH:17]3)[C:2](=[O:1])[C:3]2=[CH:4][CH:5]=[CH:6]1)[H:11] 7-7,9; 9,10-7,9; 9,10-10",Room Temperature,Propagation,resonance
"C1CC[CH:10]C1.[Cl:20]>>C1CC[CH:10](C1)[Cl:20] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:16][O:15][C:14](=[O:13])[C:17]1=[CH:18][N:19]([CH2:23][CH2:24][CH2:25]1)[C:20](=[O:22])[CH2:21].[CH2:1]=[CH:2][CH2:3][N:4]1[CH:5]=[CH:6][C:7]2=[C:8]1[CH:9]=[CH:10][CH:11]=[CH:12]2>>[CH3:16][O:15][C:14](=[O:13])[C:17]1=[CH:18][N:19]([CH2:23][CH2:24][CH2:25]1)[C:20](=[O:22])[CH2:21][CH2:1][CH:2][CH2:3][N:4]2[CH:5]=[CH:6][C:7]3=[C:8]2[CH:9]=[CH:10][CH:11]=[CH:12]3 21-21,1; 1,2-1,21; 1,2-2",Room Temperature,Propagation,addition
"[H:20][CH:21]1CC=C1.[Br:10]>>[H:20][Br:10].C1C=C[CH:21]1 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:1][C:2]([CH2:3][C:4]([CH3:9])([CH3:10])[C:5](=[O:8])[O:6][CH3:7])[C:11](=[O:14])[O:12][CH3:13]>>[CH3:1][C:2](=[C:11]([O:14])[O:12][CH3:13])[CH2:3][C:4]([CH3:9])([CH3:10])[C:5](=[O:8])[O:6][CH3:7] 11,14-14; 11,14-11,2; 2-11,2",Room Temperature,Propagation,resonance
